US07365225B2
Step a) Formation of ethyl 2-(dichloromethyl)-4,5-dihydro-1,3-thiazole-4-carboxylate
Dichloroacetonitrile (33.67 mL, 420 mmol) was added slowly, whilst maintaining the temperature below 0° C., over 30 min. to a solution of sodium methoxide ((25% w/w) 9.63 mL, 43 mmol) in methanol (84.5 mL) which was precooled to −10° C. This was allowd to stir for 30 min. before the addition of L-cysteine ethyl ester hydrochloride (78.32 g, 422 mmol) dissolved in methanol (67.4 mL) and then stirred overnight at RT. Water (136 mL) followed by DCM (136 mL) was added to the mixture and stirred vigorously. The organic layer was separated and the aqueous layer was reextracted with a further 136 mL of DCM. This was concentrated in vacuo to give the crude product (94.1 g, 93%).

reactant | Dichloroacetonitrile | 420 mmol, 33.67 mL | ClC(C#N)Cl | C2HCl2N
reactant | sodium methoxide | 43 mmol, 9.63 mL | C[O-].[Na+]
reactant | L-cysteine ethyl ester hydrochloride | 422 mmol, 78.32 g | Cl.C(C)OC([C@@H](N)CS)=O
reactant | Water | 136 mL | O | H2O
solvent | methanol | 84.5 mL | CO | CH4O
solvent | methanol | 67.4 mL | CO | CH4O
solvent | DCM | 136 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-(dichloromethyl)-4,5-dihydro-1,3-thiazole-4-carboxylate | 94.1 g, 93% | ClC(C=1SCC(N1)C(=O)OCC)Cl | C7H9Cl2NO2S
